data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH+:21]CC(CO)(C1=CC=CC=C1)C2=CC=CC=C2.[B-]([O:10]C1(CC(=O)C=C1)OCC(CO)(C2=CC=CC=C2)C3=CC=CC=C3)(F)(F)F.CCOCC>>C1=CC=C(C=C1)C(CO)(C[OH:21])C2=CC=CC=C2.[H:20][O+:10]([B-](F)(F)F)C1(CC(=O)C=C1)OCC(CO)(C2=CC=CC=C2)C3=CC=CC=C3.CCOCC 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1CC=CCO)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:22](=[C:21](C=C1)[N+](=O)[O-])CC=CCO 10=20;20,21=21,22
CCCCCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COC)O>>CCCCCC1=CC=C[N:21]=C1.COCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
[H:20][NH2+:21]CCCC.CC[O-:10]>>[H:20][O:10]CC.CCCC[NH2:21] 10=20;20,21=21
COC(=O)CCCC#CCC#C[CH2:20][O:21][P+:22](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:10].C(Br)(Br)Br>>COC(=O)CCCC#CCC#C[CH2:20][Br:10].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10=20;20,21=21,22
CC1(C[OH+:21][C:20]2(CC3CC(CC3C2)OC)[O:10]C1)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>CC(C)(C[OH:21])C[O+:10]=[C:20]1CC2CC(CC2C1)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])OCC)Cl.CC(C)(C)[O-:10].C1CCC(=O)CC1.C1=CC=C(C=C1)C=O>>[H:20][O:10]C(C)(C)C.CCO[C:22](=[CH:21]Cl)[O-:23].C1CCC(=O)CC1.C1=CC=C(C=C1)C=O 10=20;22,23=23;20,21=21,22
C[C+:20]=O.CC(=O)C1=CO[CH:10]=[CH:11]1>>C[C:20](=O)[CH:10]1[CH+:11]C(=CO1)C(=O)C 10,11=10,20
C[C:20](=[Cl+:21])C.[Br-:10]>>C[C:20](C)([Cl:21])[Br:10] 10=20;20,21=21
C[S:10](=O)C.C1[CH2:20][O:21]1>>C[S+:10](=O)(C)[CH2:20]C[O-:21] 10=20;20,21=21
[H:20][CH:21]1CCC([CH:22]1[Br:23])(C)Br.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CC1(CC[CH:21]=[CH:22]1)Br.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CCO)C(C)(C1=CC(=CC=C1)C#N)O[B-](F)(F)F.C(CO)[OH:10].CCOCC>>[H:20][OH+:10]CCO.[B-](OC(C)(C1=CC(=CC=C1)C#N)[O:21]CCO)(F)(F)F.CCOCC 10=20;20,21=21
[H:20][S:21]CCCCSSC.C[S-:10]>>[H:20][S:10]C.CSSCCCC[S-:21] 10=20;20,21=21
[H:20][OH+:21]C(C=C)(NCC)O.[OH2:10]>>CCNC(C=C)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
C[C:20](NC)([O-:10])[O:21]C>>C[C:20](=[O:10])NC.C[O-:21] 10=20;20,21=21
CC[NH2:10].C[C:20](=[OH+:21])N>>CC[NH2+:10][C:20](C)(N)[OH:21] 10=20;20,21=21
[H:20][O+:21]=C(C1CC(=O)C1)OCC2=CC=CC=C2.[OH2:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=C(C=C1)CO>>[H:20][OH2+:10].C1C(CC1=O)C(=[O:21])OCC2=CC=CC=C2.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=C(C=C1)CO 10=20;20,21=21
CO[PH:10](OC)(OC)[Cl:11]>>CO[PH+:10](OC)OC.[Cl-:11] 10,11=11
CC(C)(C)C(=[NH+]O[Si](C)(C)C)O[S:20](=O)(C(F)(F)F)([O-:10])[O:21]S(=O)(=O)C(F)(F)F.CCN(CC)CC>>C(F)(F)(F)S(=O)(=O)[O-:21].CC(C)(C)C(=[NH+]O[Si](C)(C)C)O[S:20](=O)(=[O:10])C(F)(F)F.CCN(CC)CC 10=20;20,21=21
CC=C[CH2:20][Br:21].[OH-:10]>>CC=C[CH2:20][OH:10].[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C([CH:10]=[C:11](O)[OH:12])O>>[H:20][CH:10](CO)[C:11](=[OH+:12])O.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CCC([O-:10])[O-].[AlH3:20]>>CCC([O-])[O:10][AlH3-:20] 10=20,
C[CH:20]1[OH+:21]CC[O:10]1>>C[CH:20]=[O+:10]CC[OH:21] 10=20;20,21=21
C1(=C([N+](=O)[O-])[N+](=O)[O-])N[C:20](=[OH+:21])C(C(=O)N1)([N+](=O)[O-])[N+](=O)[O-].[OH2:10].OS(=O)(=O)[O-]>>C1(=C([N+](=O)[O-])[N+](=O)[O-])NC(=O)C([C:20](N1)([OH2+:10])[OH:21])([N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)[O-] 10=20;20,21=21
[B:20](Br)(Br)Br.C[O:10]C1=C2C3=C(CC4C5(C3(CCN4)C(O2)C(=O)CC5)O)C=C1>>[B-:20]([O+:10](C)C1=C2C3=C(CC4C5(C3(CCN4)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)Br 10=20,
[H:20][O:21]S(=O)(=O)O.C([CH:10]=[C:11]=[NH:12])O>>[H:20][CH:10](CO)[C:11]#[NH+:12].OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
C[C+:20]=O.[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)C#N>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=C(C=CC=C12)C#N 10,11=10,20
CCOC(=O)C1C=C([O:10][C:20]1(C)[OH2+:21])C.CO.OS(=O)(=O)[O-]>>CCOC(=O)C1C=C([O+:10]=[C:20]1C)C.[OH2:21].CO.OS(=O)(=O)[O-] 10=20;20,21=21
CCC=[O:10].Cl[Ti:20](Cl)(Cl)Cl.CC(=C)O[Si](C)(C)C>>CCC=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl.CC(=C)O[Si](C)(C)C 10=20,
[H:20][O+:21](C)P(OC)(OC)I.C[OH:10]>>COP(OC)([O:21]C)I.[H:20][OH+:10]C 10=20;20,21=21
COC1=C(C=CC(=C1)N2CC[C:20](=[O:21])CC2)[N+](=O)[O-].C1CC(C[NH:10]C1)O.CCN(CC)CC.CC(=O)O>>COC1=C(C=CC(=C1)N2CC[C:20](CC2)([NH+:10]3CCCC(C3)O)[O-:21])[N+](=O)[O-].CCN(CC)CC.CC(=O)O 10=20;20,21=21
[H:20][OH+:21]C1(CCCC2C1(CCCC2(C)C(=O)OC)C)OCCO.[OH2:10].C1CCOC1.[Cl-]>>[H:20][OH2+:10].CC1(CCCC2(C1CCCC2([OH:21])OCCO)C)C(=O)OC.C1CCOC1.[Cl-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1C(CC1=O)C(=[O:10])O.CC1=CC=CC=C1.C1=CC=C(C=C1)CO>>[H:20][O+:10]=C(C1CC(=O)C1)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=CC=CC=C1.C1=CC=C(C=C1)CO 10=20;20,21=21
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)Br.[N+:20](=O)=[O:21]>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[N+:20](=O)[O-:21])Br 10,11=10,20;20,21=21;12,13=11,12
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2C(=O)C)Br.[Br-:10]>>[H:20][Br:10].CC(=O)C1=CC=CC2=C1C=C[CH:22]=[C:21]2Br 10=20;20,21=21,22
CCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)C3CCCCC3)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)C3CCCCC3)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
